US06599917B1
d) 2-Benzyl-7-bromo-3-methoxyquinoline
A mixture of 3.3 g of 2-amino−4-bromobenzaldehyde, 3.3 g of 1-methoxy-3-phenylacetone, an aqueous potassium hydroxide solution (10 g of potassium hydroxide was dissolved in 10 ml of water) and 20 ml of ethanol was heated under stirring at 100° C. for 4 hours in a sealed tube. After cooling as it was, the reaction solution was poured into water and the mixture was extracted with diethyl ether. The organic phase was washed with brine and the solvent was removed. The residue was crystallized from hexane/ethyl acetate, to give 3.7 g of the target compound.

reactant | 2-amino−4-bromobenzaldehyde | 3.3 g | NC1=C(C=O)C=CC(=C1)Br | C7H6BrNO
reactant | 1-methoxy-3-phenylacetone | 3.3 g | COCC(=O)CC1=CC=CC=C1 | C10H12O2
reactant | potassium hydroxide | 10 ml, 10 g | [OH-].[K+]
reactant | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 2-Benzyl-7-bromo-3-methoxyquinoline | 3.7 g | C(C1=CC=CC=C1)C1=NC2=CC(=CC=C2C=C1OC)Br | C17H14BrNO
